US08664214B2
N-(3-((2-butyl-1-oxoisoindolin-5-ylamino)methyl)pyridin-4-yl)pivalamide
5-Amino-2-butylisoindolin-1-one (49.5 mg, 0.242 mmol) was added to a solution of N-(3-formylpyridin-4-yl)pivalamide (50 mg, 0.242 mmol) in acetic acid (1 mL). After stiffing for 5 days, water and sat aqueous NaHCO3 solution were added. The mixture was extracted with EtOAc, the combined organic layers were washed with water, dried over MgSO4 and the solvent was removed in vacuo. The residue obtained was dissolved in MeOH (3 mL) and NaBH4 (18.3 mg, 0.485 mmol) was added. After stirring overnight, water and sat. aqueous NaHCO3 solution were added. Extraction with EtOAc, washing of the combined organic layers with water and drying over MgSO4 provided the crude product which was purified by HPLC (24 mg, 19%). ESI-MS [M+H]+=395.2.

reactant | 5-Amino-2-butylisoindolin-1-one | 0.242 mmol, 49.5 mg | NC=1C=C2CN(C(C2=CC1)=O)CCCC | C12H16N2O
reactant | N-(3-formylpyridin-4-yl)pivalamide | 0.242 mmol, 50 mg | C(=O)C=1C=NC=CC1NC(C(C)(C)C)=O | C11H14N2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | NaBH4 | 0.485 mmol, 18.3 mg | [BH4-].[Na+]
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 3 mL | CO | CH4O
solvent | water | O | H2O
product | N-(3-((2-butyl-1-oxoisoindolin-5-ylamino)methyl)pyridin-4-yl)pivalamide | C(CCC)N1C(C2=CC=C(C=C2C1)NCC=1C=NC=CC1NC(C(C)(C)C)=O)=O | C23H30N4O2
